US07932259B2
To a solution of lithium borohydride (2.61 g) in tetrahydrofuran (60 mL) was added a solution of 1-[7-(4-bromo-2,6-dimethylphenyl)-2,5-dimethyl-6-oxo-6,7-dihydro-5H-pyrrolo[2,3-d]pyrimidin-4-yl]piperidine-4-carboxylic acid ethyl ester (6.0 g) in a mixture of tetrahydrofuran (60 mL) and methanol (3 mL) dropwise over 10 minutes under ice-cooling. The reaction mixture was warmed up to room temperature and stirred for 3 hours. After cooling with an ice-bath, 6 M HCl aqueous solution (30 mL) was added and stirred at room temperature for 1 hour. The solution was made to alkaline (pH=9) with 6 M NaOH aqueous solution, and extracted with ethyl acetate. The organic layer was washed with brine, dried over anhydrous sodium sulfate and filtered. The filtrate was concentrated under reduced pressure and the residue was purified by a silica gel column chromatography (silica gel: Wako Gel (C200), eluent: hexane/ethyl acetate=1:1) to give {1-[7-(4-bromo-2,6-dimethylphenyl)-2,5-dimethyl-7H-pyrrolo[2,3-d]pyrimidin-4-yl]piperidin-4-yl}methanol (4.6 g).

reactant | lithium borohydride | 2.61 g | [BH4-].[Li+]
reactant | 1-[7-(4-bromo-2,6-dimethylphenyl)-2,5-dimethyl-6-oxo-6,7-dihydro-5H-pyrrolo[2,3-d]pyrimidin-4-yl]piperidine-4-carboxylic acid ethyl ester | 6.0 g | C(C)OC(=O)C1CCN(CC1)C=1C2=C(N=C(N1)C)N(C(C2C)=O)C2=C(C=C(C=C2C)Br)C | C24H29BrN4O3
reactant | HCl | 6 M, 30 mL | Cl | ClH
reactant | NaOH | 6 M | [OH-].[Na+]
solvent | tetrahydrofuran | 60 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 60 mL | O1CCCC1 | C4H8O
solvent | methanol | 3 mL | CO | CH4O
product | {1-[7-(4-bromo-2,6-dimethylphenyl)-2,5-dimethyl-7H-pyrrolo[2,3-d]pyrimidin-4-yl]piperidin-4-yl}methanol | 4.6 g | BrC1=CC(=C(C(=C1)C)N1C=C(C2=C1N=C(N=C2N2CCC(CC2)CO)C)C)C | C22H27BrN4O
